US03966793
7-Methyl-3-ethoxycarbonyl-5-phenyl-2-oxo-2,3-dihydro-1H-benzo[f]-1,4-diazepine (4327 CB)
This compound is obtained by the procedure described in Example 22, the hydrochloride of methyl aminomalonate and compound 4356 CB being replaced by the equivalent quantities of, respectively, the hydrochloride of ethyl aminomalonate and (2-amino-5-methylphenyl)-phenyl-methane-imine prepared according to Example 12.

reactant | hydrochloride | Cl | ClH
reactant | methyl aminomalonate | NC(C(=O)OC)C(=O)[O-]
reactant | ethyl aminomalonate | NC(C(=O)OCC)C(=O)[O-]
reactant | (2-amino-5-methylphenyl)-phenyl-methane-imine | NC1=C(C=C(C=C1)C)C(=N)C1=CC=CC=C1 | C14H14N2
product | 7-Methyl-3-ethoxycarbonyl-5-phenyl-2-oxo-2,3-dihydro-1H-benzo[f]-1,4-diazepine | CC=1C=CC2=C(C(=NC(C(N2)=O)C(=O)OCC)C2=CC=CC=C2)C1 | C19H18N2O3
